US06770778B2
To a stirring suspension of the product of Preparation 2, Step B, 5,6-O-isopropylidene-L-gulono-1,4-lactone (15.16 g, 69.5 mmol) in water (0.3 L) was added solid sodium periodate in small portions at 3° C. to 5° C. The pH of the mixture was adjusted to 5.5 with 1N aqueous sodium hydroxide. The suspension was stirred for 2 hours at ambient temperature, then saturated with sodium chloride (20.0 g) and filtered. To the filtrate, at 3° C. to 5° C., was added sodium borohydride (10.5 g, 0.278 mol) in small portions. The reaction mixture was stirred for 18 hours at ambient temperature. Acetone (100 mL) was added to destroy the excess of sodium borohydride, and the stirring was continued for 30 minutes. The acetone was removed under reduced pressure, and the aqueous residue was extracted with dichloromethane (3×300 mL) and EtOAc (3×300 mL). The combined organic layers were dried over magnesium sulfate, filtered, and evaporated to give (R)-(+)-(2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol (5.07 g, 55.7%) as a colorless clear liquid: MS (APCI+)=132.9 (M++1).

reactant | 5,6-O-isopropylidene-L-gulono-1,4-lactone | 69.5 mmol, 15.16 g | CC1(OC[C@H](O1)[C@@H]2[C@@H]([C@@H](C(=O)O2)O)O)C | C9H14O6
reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | sodium borohydride | 0.278 mol, 10.5 g | [BH4-].[Na+]
solvent | water | 0.3 L | O | H2O
solvent | Acetone | 100 mL | CC(=O)C | C3H6O
product | (R)-(+)-(2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol | 5.07 g, 55.7% | CC1(OC[C@H](O1)CO)C | C6H12O3
